US07253285B2
To a solution of 2-chloro-4-fluoro-benzylamine (4.5 g, 28.19 mmol) and Rhodanine (3.75 g, 28.2 mmol) in acetonitrile (170 mL) was added DIPEA (9.82 mL, 56.4 mmol) at room temperature. Then, this solution was cooled to 0° C. and mercuric chloride (8.42 g, 31.02 mmol) was added in two portions within 10 min. After addition, the suspension was allowed to warm to room temperature and stirred for 3 days. The resulting black solids were filtered through a plug of celite and washed with acetonitrile (1.0 L) and ethyl acetate (500 mL). The combined filtrates were removed under the vacuum and the crude residue was dissolved in ethyl acetate (150 mL) and washed with water and brine solution. After drying over magnesium sulfate, the filtrate was removed under the vacuum and the residue was dissolved in ethyl acetate (50 mL) at hot condition. After cooling in the refrigerator overnight, the solids were collected by filtration and washed with hexanes. After drying in air, 1.2 g (16.5% yield) of 2-(2-chloro-4-fluoro-benzylamino)-thiazol-4-one was isolated as a white amorphous solid: EI-HRMS m/e calcd for C10H8FN2OS2 (M+) 258.0030, found 258.0027.

reactant | 2-chloro-4-fluoro-benzylamine | 28.19 mmol, 4.5 g | ClC1=C(CN)C=CC(=C1)F | C7H7ClFN
reactant | Rhodanine | 28.2 mmol, 3.75 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | DIPEA | 56.4 mmol, 9.82 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 170 mL | C(C)#N | C2H3N
product | 2-(2-chloro-4-fluoro-benzylamino)-thiazol-4-one | 1.2 g, 16.5% yield | ClC1=C(CNC=2SCC(N2)=O)C=CC(=C1)F | C10H8ClFN2OS
